US05470851
1-(2-Aminoethyl)-4-[α-(2-pyridyl)-4-trifluoromethylbenzyl]piperazine
The title compound was prepared in a quantitative yield in a similar manner to that described in Preparation 15' by reacting 4-[α-(2-pyridyl)-4-trifluoromethylbenzyl]-1-(2-phthalimidoethyl)piperazine (prepared as described in Preparation 52') and hydrazine hydrate.

reactant | 4-[α-(2-pyridyl)-4-trifluoromethylbenzyl]-1-(2-phthalimidoethyl)piperazine | N1=C(C=CC=C1)C(C1=CC=C(C=C1)C(F)(F)F)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C27H25F3N4O2
reactant | hydrazine hydrate | O.NN
product | 1-(2-Aminoethyl)-4-[α-(2-pyridyl)-4-trifluoromethylbenzyl]piperazine | quantitative yield | NCCN1CCN(CC1)C(C1=CC=C(C=C1)C(F)(F)F)C1=NC=CC=C1 | C19H23F3N4
